US04405640
Sodium borohydride (0.3 g) was added in small portions to a solution of 3-methyl-2,4,5,6-tetrafluorobenzaldehyde (1.5 g) in methyl alcohol (15 ml) at the ambient temperature, after which the mixture was heated at the reflux temperature for 30 minutes. The methyl alcohol was removed by evaporation under reduced pressure and the residue partitioned between dilute hydrochloric acid (20 ml of a 0.1 N solution) and ether (20 ml). The ethereal phase was separated, washed with saturated sodium bicarbonate solution and with water and then dried over anhydrous magnesium sulphate. After evaporation of the ether under reduced pressure the product was distilled in a Kugelrohr apparatus to yield 3-methyl-2,4,5,6-tetrafluorobenzyl alcohol (1.2 g) - approximate b.p. 100° C./14 mm Hg. N.m.r. (1H(ppm)CDCl3): 2.20 (s,3H); 3.20 (t,1H); 4.6 (m,2H) Infra red (liquid film): 3300, 1650, 1480, 1120, 1110 cm-1

reactant | Sodium borohydride | 0.3 g | [BH4-].[Na+]
reactant | 3-methyl-2,4,5,6-tetrafluorobenzaldehyde | 1.5 g | CC=1C(=C(C=O)C(=C(C1F)F)F)F | C8H4F4O
solvent | methyl alcohol | 15 ml | CO | CH4O
product | 3-methyl-2,4,5,6-tetrafluorobenzyl alcohol | CC=1C(=C(CO)C(=C(C1F)F)F)F | C8H6F4O
